US07612155B2
A coupling reaction of 1-bromo-3,5-dimethyladamantane (Compound A100, product of Aldrich) is caused in m-xylene by the addition of metal sodium, whereby 3,3′,5,5′-tetramethyl-1,1′-biadamantane (Compound A101) is obtained. Compound A101 is then brominated with bromine into a dibromotetramethylbiadamantane derivative (Compound A102). Compound (A102) is reacted with vinyl bromide into Compound A103. The compound A103 is reacted with t-butoxypotassium to obtain 5,5′,7,7′-tetramethyl-3,3′-diethynyl-1,1′-biadamantane (Compound A 104). Moreover, in accordance with the synthesis process shown in <Synthesis of Exemplified compound D-102>, a target Exemplified compound (D-134) (5,5′,7,7′-tetramethyl-3,3′-divinyl-1,1′-biadamantane) is obtained.

reactant | 1-bromo-3,5-dimethyladamantane | BrC12CC3(CC(CC(C1)C3)(C2)C)C | C12H19Br
reactant | sodium | [Na] | Na
solvent | m-xylene | C1(=CC(=CC=C1)C)C | C8H10
product | 3,3′,5,5′-tetramethyl-1,1′-biadamantane | CC12CC3(CC(CC(C1)(C3)C)C2)C23CC1(CC(CC(C2)C1)(C3)C)C | C24H38
